US04898863
A solution of t-butyl 4-[6-(N-cyclopentylmethylcarbamoyl)-3-formylindol-1-ylmethyl]-3-methoxybenzoate (1.2 g) and methyl (triphenylphosphoranylidene)acetate (1.8 g) in dioxane (12 ml) was heated at reflux for 48 hours. The solvent was evaporated. The resultant residue was purified by flash chromatography on silica gel (600 ml), eluting with 3:7 ethyl acetate:hexane, to give t-butyl 4-[6-(N-cyclopentylmethylcarbamoyl)-3-(2-methoxycarbonylvinyl)indol-1-ylmethyl]-3-methoxybenzoate (1.1 g, 84%) as a yellow solid; mp 163°-164°.

reactant | t-butyl 4-[6-(N-cyclopentylmethylcarbamoyl)-3-formylindol-1-ylmethyl]-3-methoxybenzoate | 1.2 g | C1(CCCC1)CNC(=O)C1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC(C)(C)C)C=C1)OC)C=O | C29H34N2O5
reactant | methyl (triphenylphosphoranylidene)acetate | 1.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
reactant | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | t-butyl 4-[6-(N-cyclopentylmethylcarbamoyl)-3-(2-methoxycarbonylvinyl)indol-1-ylmethyl]-3-methoxybenzoate | 1.1 g, 84% | C1(CCCC1)CNC(=O)C1=CC=C2C(=CN(C2=C1)CC1=C(C=C(C(=O)OC(C)(C)C)C=C1)OC)C=CC(=O)OC | C32H38N2O6
